US08058461B2
4c) 4/7-(2-Bromoethyl)-2-methyl-1H-indene
To a hot (110° C.) solution of 12.0 g (44.6 mmol) of 4-(2-bromoethyl)-1-methoxy-2-methylindane in 200 ml of toluene 1.0 g of TsOH was added. This mixture was refluxed with Dean-Stark trap for 10 minutes and then passed through 5 cm layer of silica gel 60 (40-63 μm). The silica gel layer was additionally washed by 500 ml of toluene. The combined organic extract was evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 μm, eluent: hexanes). Yield 10.2 g (97%) of a ca. 1 to 1.5 mixture of 4- and 7-(2-bromoethyl)-2-methyl-1H-indenes. Anal. calc. for C12H13Br: C, 60.78; H, 5.53. Found: C, 60.66; H, 5.46. 1H NMR (CDCl3): δ 6.92-7.31 (m, 6H, 5,6,7-H and 4,5,6-H of minor and major isomers, respectively), 6.60 (m, 1H, 3-H in indenyl of minor isomer), 6.51 (m, 1H, 3-H in indenyl of major isomer), 3.62 (m, 2H, CH2Br of major isomer), 3.57 (m, 2H, CH2Br of minor isomer), 3.32 (br.s, 2H, 1,1′-H in indenyl of minor isomer), 3.28 (br.s, 2H, 1,1′-H in indenyl of major isomer), 3.27 (m, 2H, CH2CH2Br of minor isomer), 3.23 (m, 2H, CH2CH2Br of major isomer), 2.19 (m, 3H, 2-Me in indenyl of minor isomer), 2.18 (m, 3H, 2-Me in indenyl of major isomer).

reactant | 4-(2-bromoethyl)-1-methoxy-2-methylindane | 44.6 mmol, 12.0 g | BrCCC1=C2CC(C(C2=CC=C1)OC)C | C13H17BrO
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 200 ml, 1.0 g | C1(=CC=CC=C1)C | C7H8
product | 7-(2-Bromoethyl)-2-methyl-1H-indene | BrCCC=1C=CC=C2C=C(CC12)C | C12H13Br
